US08871774B2
Formation of (+/−)-trans-(2,3)-methyl 3-((5-chloro-2-(5-fluoro-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)bicyclo[2.2.2]octane-2-carboxylate (I-32)
To a solution of (+/−)-trans-(2,3)-methyl 3-((5-chloro-2-(5-fluoro-1-trityl-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)bicyclo[2.2.2]octane-2-carboxylate, 38, (0.85 g, 1.26 mmol) in CH2Cl2 (42.5 mL) at room temperature was added Et3SiH (1.00 mL, 6.32 mmol) followed by trifluoroacetic acid (0.97 mL, 12.60 mmol). The reaction was stirred at room temperature. After the reaction was complete, as judged by LC-MS, the solution was concentrated in vacuo. Careful flash chromatography (SiO2, 0-7% MeOH—CH2Cl2, gradient elution) provided the desired product (373 mg, 66% yield)L 1H NMR (400 MHz, MeOD) δ 8.66 (dd, J=8.3, 2.5 Hz, 1H), 8.53 (s, 1H), 8.28 (s, 1H), 5.05 (d, J=6.5 Hz, 1H), 3.69 (s, 3H), 2.95 (d, J=6.8 Hz, 1H), 2.09 (s, 1H), 1.98 (s, 1H), 1.96-1.79 (m, 3H), 1.77-1.61 (m, 3H), 1.61-1.45 (m, 2H); LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, RT=2.55 min, (M+H) 431.14.

reactant | methyl 3-((5-chloro-2-(5-fluoro-1-trityl-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)bicyclo[2.2.2]octane-2-carboxylate | ClC=1C(=NC(=NC1)C1=NN(C2=NC=C(C=C21)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC2C(C1CCC2CC1)C(=O)OC | C39H34ClFN6O2
reactant | Et3SiH | 6.32 mmol, 1.00 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | trifluoroacetic acid | 12.60 mmol, 0.97 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 42.5 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-((5-chloro-2-(5-fluoro-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)bicyclo[2.2.2]octane-2-carboxylate | 373 mg, 66% yield | ClC=1C(=NC(=NC1)C1=NNC2=NC=C(C=C21)F)NC2C(C1CCC2CC1)C(=O)OC | C20H20ClFN6O2
